US05008439
Methyl 2-(4-acetoxyphenoxy)propanoate (1.0 g, 4.2 mmol) is hydrolyzed by refluxing for 2 hours at 80° C. with methanol (10 mL) and concentrated HCL (36%, 2 drops). The reaction product is concentrated under reduced pressure to obtain methyl 2-(4-hydroxyphenoxy)propanoate (0.81 g). Conversion 99%, selectivity 99%, yield 97%; IR (neat) 1757 (vs) 1H NMR (CDC13) delta 1.60 (d, J=7.0 Hz, 3H), 3.80 (s, 3H), 4.85 (q, J=7.0 Hz, 1H), 6.82 (s, 4H).

reactant | Methyl 2-(4-acetoxyphenoxy)propanoate | 4.2 mmol, 1.0 g | C(C)(=O)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C12H14O5
solvent | methanol | 10 mL | CO | CH4O
product | methyl 2-(4-hydroxyphenoxy)propanoate | 0.81 g, yield 97% | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
